US06028195
1-[N-(5,6-Dimethyl-2-methoxypyridin-3-yl)-N-methylaminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
1-[(5,6-Dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(100 mg, 0.25 mmol) was dissolved in dimethylformamide(15 ml) and thereto sodium hydride(6.0 mg, 0.25 mmol) was added. The resulting mixture was stirred at room temperature for 15 min and thereto iodomethane(35 mg, 0.25 mmol) was added. The resulting mixture was stirred at room temperature for 16 hrs, concentrated under the reduced pressure to remove dimethylformamide, and purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | 1-[(5,6-Dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.25 mmol, 100 mg | CC=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C21H28N4O4
reactant | sodium hydride | 0.25 mmol, 6.0 mg | [H-].[Na+]
reactant | iodomethane | 0.25 mmol, 35 mg | IC | CH3I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[N-(5,6-Dimethyl-2-methoxypyridin-3-yl)-N-methylaminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 94% | CC=1C=C(C(=NC1C)OC)N(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C | C22H30N4O4
